US03954754
EXAMPLE 12: 3-Hydrazino-5,6,7,8-tetrahydro-6-(3-phenylpropionyl)pyrido[4,3-c]pyridazine
The 3-chloro-5,6,7,8-tetrahydro-6-(3-phenylpropionyl)pyrido[4,3-c]pyridazine, required as starting material, may be obtained in a manner analogous to that described in Example 8 (g), from 28.6 g of 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate and 31.5 g of 3-phenylpropionyl chloride. M.P. 134°-137° from 95% ethanol.

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(3-phenylpropionyl)pyrido[4,3-c]pyridazine | ClC1=CC2=C(N=N1)CCN(C2)C(CCC2=CC=CC=C2)=O | C16H16ClN3O
reactant | 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate | 28.6 g | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | 3-phenylpropionyl chloride | 31.5 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | ethanol | C(C)O | C2H6O
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(3-phenylpropionyl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(CCC2=CC=CC=C2)=O | C16H19N5O
